US09376420B2
Step 2: 3-(5-bromo-pyridin-3-yl)-N-methoxy-N-methyl-acrylamide
The 3-(5-bromo-pyridin-3-yl)-acryloyl chloride in the form of unpurified dark brown liquid, N,O-dimethylhydroxylamine hydrochloride (11.6 g, 119.3 mmol), and pyridine (20.4 mL, 252.4 mmol) were added at 0° C. to dichloromethane (150.0 mL). The reaction mixture was stirred at room temperature for 3 hours, quenched with distilled water, and then extracted with dichloromethane. The extract was washed with a 1N hydrochloric acid solution and brine, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was recrystallized from diethyl ether and n-hexane to give 8.2 g of the titled compound as a yellow solid.

reactant | 3-(5-bromo-pyridin-3-yl)-acryloyl chloride | BrC=1C=C(C=NC1)C=CC(=O)Cl | C8H5BrClNO
reactant | N,O-dimethylhydroxylamine hydrochloride | 119.3 mmol, 11.6 g | Cl.CNOC
reactant | pyridine | 252.4 mmol, 20.4 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 150.0 mL | ClCCl | CH2Cl2
product | 3-(5-bromo-pyridin-3-yl)-N-methoxy-N-methyl-acrylamide | 8.2 g | BrC=1C=C(C=NC1)C=CC(=O)N(C)OC | C10H11BrN2O2
